US04443448
A solution of 860 grams of ethyl α-cyano-4-methylcinnamate in 1500 milliliters of hot toluene was added to a solution of 4-fluorophenyl magnesium bromide prepared from 860 grams of 4-bromofluorobenzene and 130 grams of magnesium turnings in 2500 milliliters of ether, under simultaneous distillation of the ether, until a final temperature of 80 degrees Centigrade was reached in the reaction mixture. The reaction mixture was then refluxed for 1 hour, whereupon it was hydrolysed with ice and 450 milliliters of concentrated hydrochloric acid. The mixture was then extracted with ether, washed with water, dried over anhydrous magnesium sulfate, treated with active carbon and evaporated in vacuo to give 1275 grams of crude ethyl α-cyano-3-(p-fluorophenyl)-3-(p-tolyl)-propionate.

reactant | ethyl α-cyano-4-methylcinnamate | 860 grams | C(#N)C(C(=O)OCC)=CC1=CC=C(C=C1)C | C13H13NO2
reactant | 4-fluorophenyl magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | 4-bromofluorobenzene | 860 grams | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | magnesium | 130 grams | [Mg] | Mg
reactant | hydrochloric acid | 450 milliliters | Cl | ClH
solvent | toluene | 1500 milliliters | C1(=CC=CC=C1)C | C7H8
solvent | ether | 2500 milliliters | CCOCC | C4H10O
product | ethyl α-cyano-3-(p-fluorophenyl)-3-(p-tolyl)-propionate | 1275 grams | C(#N)C(C(=O)OCC)C(C1=CC=C(C=C1)C)C1=CC=C(C=C1)F | C19H18FNO2
